US06900215B2
3-(5-Bromo-2-fluorophenyl)-5-fluoropyridine was reacted with bis(pinacolato)diboron as described in Example 1 to give 3-fluoro-5-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine (300 mg, 22%) as a brown oil which solidified on standing: m/z (ES+) 318 (M++H).

reactant | 3-(5-Bromo-2-fluorophenyl)-5-fluoropyridine | BrC=1C=CC(=C(C1)C=1C=NC=C(C1)F)F | C11H6BrF2N
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 3-fluoro-5-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine | 300 mg, 22% | FC=1C=NC=C(C1)C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BF2NO2
